US09447024B1
N-Acetyl-D-serine methyl ester (25 g, 0.155 mole) was dissolved in benzylamine (33.2 g, 0.3101 mole) at 0-5° C. The reaction mixture was allowed to room temperature and stirred for 12 hr. To the thick colorless precipitate formed was added 300 ml methyl tert-butyl ether and stirred for 6 hr. The product was filtered and dried under vacuum to obtain (R)-2-acetamido-N-benzyl-3-hydroxy-propionamide (30.0 g, Yield: 82%, HPLC: 98.9, Chiral HPLC: 96.2%).

reactant | N-Acetyl-D-serine methyl ester | 0.155 mole, 25 g | COC([C@H](NC(C)=O)CO)=O | C6H11NO4
reactant | benzylamine | 0.3101 mole, 33.2 g | C(C1=CC=CC=C1)N | C7H9N
solvent | methyl tert-butyl ether | 300 ml | C(C)(C)(C)OC | C5H12O
product | (R)-2-acetamido-N-benzyl-3-hydroxy-propionamide | 30.0 g, Yield: 82% | C(C)(=O)N[C@@H](C(=O)NCC1=CC=CC=C1)CO | C12H16N2O3
